US04509970
A mixture of 4-(2-chloro-4-trifluoromethylphenoxy)-1,2-dinitrobenzene (1.6 g, 4.4 mmol), dimethyl ethylphosphonite (1 ml, 8.8 mmol) and acetonitrile (6 ml) is stirred at room temperature overnight. The reaction mixture is concentrated to dryness, and the residue is purified by preparative thin layer chromatography (silica gel, eluting with 10% ethyl acetate/hexane) to give methyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate.

reactant | 4-(2-chloro-4-trifluoromethylphenoxy)-1,2-dinitrobenzene | 4.4 mmol, 1.6 g | ClC1=C(OC2=CC(=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C13H6ClF3N2O5
reactant | dimethyl ethylphosphonite | 8.8 mmol, 1 ml | C(C)P(OC)OC | C4H11O2P
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | methyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate | C(C)P(OC)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C16H14ClF3NO5P
